data/mechanisms/records/IMS4-EQ4.15a.json
{"mechanism_id": "IMS4-EQ4.15a", "species": [{"species_id": "but_1_ene_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_cation", "mapped_smiles": "[CH2:2]=[CH:3][CH2+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["but_1_ene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["allyl_cation", "methyl_radical"]}], "steps": [{"step_id": "step_allylic_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_15a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_allylic_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 59, "equation": "4.15", "figure": null, "panel": "first (upper) scheme, 1-butene", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 3 arc(s); moves <1,2,3> are all drawn on the page and none is implicit: (1) a fishhook from the odd electron of the ionized double bond into the C(2)-C(3) bond, (2) a fishhook from the C(1)-C(2) sigma bond into that same C(2)-C(3) bond (the two barbs are printed side by side between CH2 and CH), and (3) a leftmost fishhook from the C(1)-C(2) sigma bond onto the departing CH3. LOCALIZATION NOTE (convention B/C): the page prints the ionized double bond as 'CH3-CH2-CH(+.)-CH2', i.e. the '+' and the dot as one superscript on the internal alkene carbon while the terminal CH2 is left with three bonds. That literal reading is not electron-balanced (it would make C(4) a carbene), so this record localizes the odd electron on C(3) - the atom the arrow starts from - and the positive charge on the terminal C(4), which is also where the book's own product 'CH2=CH-CH2(+)' puts it. The book adds the partner canonical form '(+)CH2-CH=CH2' in parentheses; the allyl cation written here is the form the drawn arrows actually produce. The text notes that the radical site may equally sit on the other carbon of the double bond."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 56.0621, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_41", "species_id": "allyl_cation", "step_id": "step_allylic_alpha_cleavage", "observed_mz": 41.0386, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
